US09428502B2
Compound 188.1. Ethyl 4-methyltetrahydro-2H-pyran-4-carboxylate
Into a 500-mL three neck round-bottom flask, which was purged and maintained with an inert atmosphere of nitrogen, was placed a solution of ethyl tetrahydro-2H-pyran-4-carboxylate (8 g, 50.6 mmol) in tetrahydrofuran (100 mL). This was followed by the addition of LDA (50 mL, 101.1 mmol, 2M in THF) dropwise at −78° C. and stirred for 3 h. To this was added a solution of CH3I (9.5 mL, 151.9 mmol) in tetrahydrofuran (50 mL) dropwise at −78° C. The reaction mixture was stirred for 3 h at −78° C., then carefully quenched with 400 mL of NH4Cl (sat.). The aqueous phase was extracted with 300 mL of ethyl acetate and the combined organic layers were dried over anhydrous sodium sulfate and concentrated under reduced pressure. This resulted in 8 g (92%) of the title compound as a yellow oil.

reactant | ethyl tetrahydro-2H-pyran-4-carboxylate | 50.6 mmol, 8 g | O1CCC(CC1)C(=O)OCC | C8H14O3
reactant | LDA | 101.1 mmol, 2M, 50 mL | [Li+].CC(C)[N-]C(C)C
reactant | CH3I | 151.9 mmol, 9.5 mL | CI | CH3I
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Ethyl 4-methyltetrahydro-2H-pyran-4-carboxylate | 8 g, 92% | CC1(CCOCC1)C(=O)OCC | C9H16O3
